US05206240
A suspension of 5.24 g (15.0 mmol) of 1-(8-[2-(4-acetamido-3-nitrophenyl)ethyl]-1,4-dioxa-8-azaspiro[4.5]decane in 30 mL 2N hydrochloric acid was heated at reflux for 1.5 hours. The cooled mixture was basified (pH 9-10) with saturated sodium carbonate solution and 10N sodium hydroxide diluted with 100 ml water, and extracted with methylene chloride (3×150 ml). The extract was washed with 50 ml water and brine, dried over sodium sulfate and filtered. The filtrate was concentrated in vacuo to give 3.95 g (100%) of 1-[2-(4-amino-3-nitrophenyl)ethyl]-4-piperidone as an oil.

reactant | 8-[2-(4-acetamido-3-nitrophenyl)ethyl]-1,4-dioxa-8-azaspiro[4.5]decane | C(C)(=O)NC1=C(C=C(C=C1)CCN1CCC2(OCCO2)CC1)[N+](=O)[O-] | C17H23N3O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | hydrochloric acid | 2N, 30 mL | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 1-[2-(4-amino-3-nitrophenyl)ethyl]-4-piperidone | 3.95 g, 100% | NC1=C(C=C(C=C1)CCN1CCC(CC1)=O)[N+](=O)[O-] | C13H17N3O3
